US04626540
1-Chloro-4-nitro-7-(phenylmethoxy)-9-(10H)-acridinone
Four grams of 2-chloro-5-nitro-6-[[4-(phenylmethoxy)phenyl]amino]benzoic acid was suspended in 80 ml of boiling 1,2-dichloroethane to which 0.2 ml of N,N-dimethylaniline was added followed by 8.0 ml of phosphorus oxychloride. The mixture was stirred under reflux for 30 minutes and cooled overnight. The resulting suspension was filtered providing the title compound as a red solid, mp 216°-217° C.

reactant | 2-chloro-5-nitro-6-[[4-(phenylmethoxy)phenyl]amino]benzoic acid | Four grams | ClC1=C(C(=O)O)C(=C(C=C1)[N+](=O)[O-])NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H15ClN2O5
reactant | N,N-dimethylaniline | 0.2 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 8.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 1-Chloro-4-nitro-7-(phenylmethoxy)-9-(10H)-acridinone | ClC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)OCC1=CC=CC=C1)[N+](=O)[O-] | C20H13ClN2O4
